US05482941
2-Amino-3-carbamoylbenzamide
3-Carbamoyl-2-nitrobenzamide (0.6 g, 0.0029 mol) was dissolved in ethanol (50 ml) and the solution stirred with 5% palladium on charcoal catalyst (0.1 g) under a hydrogen atmosphere at 50 p.s.i. (3.45 bar) and 50° C. for 5 hours. The catalyst was removed by filtration, the solvent evaporated under vacuum and the residue crystallized from water to give the title compound as a grey solid (0.26 g, 50%), m.p.284°-288° C. Found: C,53.49; H,5.00; N,23.31. C8H9N3O2 requires C,53.62; H,5.06; N,23.45%.

reactant | 3-Carbamoyl-2-nitrobenzamide | 0.0029 mol, 0.6 g | C(N)(=O)C=1C(=C(C(=O)N)C=CC1)[N+](=O)[O-] | C8H7N3O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 2-Amino-3-carbamoylbenzamide | 0.26 g, 50% | NC1=C(C(=O)N)C=CC=C1C(N)=O | C8H9N3O2
